US07235611B2
Synthesis of 2,4-dichloro-6-glycidoxy-1,3,5-triazine:
A solution of 73.76 g (0.4 moles) cyanuric chloride in 360 ml of dichloromethane was chilled in an ice-water bath to about 0–5° C. and 31.85 g (0.43 moles) glycidol was added. A solution of 34.4 g 50% aqueous sodium hydroxide was added over about 30–45 minutes with stirring keeping the temperature between about 0° C. and about 10° C. Stirring was continued for an additional 3 hours after which time the layers were separated and the organic layer washed two times with water, and once with brine and the solution was dried over magnesium sulfate. Filtration and evaporation of the solution afforded a white solid, a sample of which was further purified by trituration withhexane-ethyl acetate. The proton and carbon nuclear magnetic resonance (NMR) spectra were consistent with the desired product, 2,4-dichloro-6-glycidoxy-1,3,5-triazine.

reactant | cyanuric chloride | 0.4 moles, 73.76 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | glycidol | 0.43 moles, 31.85 g | C1C(O1)CO | C3H6O2
reactant | sodium hydroxide | 34.4 g | [OH-].[Na+]
solvent | dichloromethane | 360 ml | ClCCl | CH2Cl2
product | 2,4-dichloro-6-glycidoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)OCC1CO1 | C6H5Cl2N3O2
